US09340528B2
To a stirred solution of 1H-quinoxalin-2-one (50 g, 342.5 mmol) in glacial acetic acid (2500 mL) was added bromine (54.7 g, 342.5 mmol in 120 mL acetic acid) over a period of 1.5 h at rt. After 18 h stirring, the mixture was slowly poured into 2000 mL water and stirred for 1 h at rt. The precipitate was filtered and the residue was washed with water and dried to give 7-bromo-1H-quinoxalin-2-one as an off-white solid (51 g, 66%): 1H-NMR (300 MHz, d6-DMSO): δ=12.42 (1H, s), 8.19 (1H, s), 7.75 (1H, d), 7.44 (2H, m) ppm.

reactant | 1H-quinoxalin-2-one | 342.5 mmol, 50 g | N1C(C=NC2=CC=CC=C12)=O | C8H6N2O
reactant | bromine | 342.5 mmol, 120 mL, 54.7 g | BrBr | Br2
reactant | water | 2000 mL | O | H2O
solvent | acetic acid | 2500 mL | C(C)(=O)O | C2H4O2
product | 7-bromo-1H-quinoxalin-2-one | 51 g, 66% | BrC1=CC=C2N=CC(NC2=C1)=O | C8H5BrN2O
